US08138197B2
3-Ethoxy-5-(tetrazol-5-yl)benzoic acid
Aqueous 5 N sodium hydroxide solution (0.46 mL, 2.23 mmol) was added to a THF (2.0 mL)-methanol (2.0 mL) solution of methyl 3-ethoxy-5-(tetrazol-5-yl)benzoate (190 mg, 0.77 mmol), and stirred at room temperature for 18 hours. 5 N hydrochloric acid (0.46 mL, 2.23 mmol) was added to the reaction mixture, and concentrated under reduced pressure. 20% methanol/chloroform was added to the residue, the mixture was filtered, and the filtrate was concentrated under reduced pressure to obtain the title compound as a colorless solid.

reactant | sodium hydroxide | 2.23 mmol, 5 N, 0.46 mL | [OH-].[Na+]
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | methyl 3-ethoxy-5-(tetrazol-5-yl)benzoate | 0.77 mmol, 190 mg | C(C)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C11H12N4O3
reactant | hydrochloric acid | 2.23 mmol, 5 N, 0.46 mL | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
product | 3-Ethoxy-5-(tetrazol-5-yl)benzoic acid | C(C)OC=1C=C(C(=O)O)C=C(C1)C1=NN=NN1 | C10H10N4O3
